US07989657B2
To 2-(4-benzyloxy-benzoylamino)-benzoic acid methyl ester (50 mg) in methanol (3 mL) was added lithium hydroxide monohydrate (6.3 mg) and the reaction mixture was stirred at room temperature until the reaction was complete. The reaction mixture was then reacidified using 1N HCl and the product was then purified by column chromatography (SiO2, ethyl acetate-ethanol: 0-20%) to give 2-(4-benzyloxy-benzoylamino)-benzoic acid as a white solid (39 mg). MS (m/e): 346.3 (M−H−, 100%).

reactant | 2-(4-benzyloxy-benzoylamino)-benzoic acid methyl ester | 50 mg | COC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C22H19NO4
reactant | lithium hydroxide monohydrate | 6.3 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | 2-(4-benzyloxy-benzoylamino)-benzoic acid | 39 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC2=C(C(=O)O)C=CC=C2)C=C1 | C21H17NO4
